US05731331
A solution of 1.0 g (3.3 mmol) of 4,5-dichloro-2-methyl-1-[4-(4-oxo-1-piperidyl)butyl]-1H-imidazole in 10 ml of anhydrous tetrahydrofuran is added to a suspension of 1.08 g (11.4 mmol) of MgCl2 in 15 ml of anhydrous THF at -40° C. and under a nitrogen atmosphere. The mixture is stirred for 5 minutes and then, at -40° C., 6.8 ml of a 1.0M solution of 4-methylphenylmagnesium bromide are added. The resulting suspension is stirred for 15 minutes at -40° C. and for 3 hours at room temperature. An aqueous ammonium chloride solution is then added and the tetrahydrofuran is evaporated. The resulting aqueous phase is extracted with chloroform. The chloroform phase is washed with water, dried with anhydrous sodium sulfate and evaporated to dryness, a crude product being obtained which is purified by chromatography on silica gel, giving 1.02 g (2.6 mmol) of 4,5-dichloro-1-{4-[4-hydroxy-4-(4-methylphenyl)-1-piperidyl]butyl}-2-methyl-1H-imidazole.

reactant | 4,5-dichloro-2-methyl-1-[4-(4-oxo-1-piperidyl)butyl]-1H-imidazole | 3.3 mmol, 1.0 g | ClC=1N=C(N(C1Cl)CCCCN1CCC(CC1)=O)C | C13H19Cl2N3O
reactant | MgCl2 | 11.4 mmol, 1.08 g | [Mg+2].[Cl-].[Cl-]
reactant | 4-methylphenylmagnesium bromide | CC1=CC=C(C=C1)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 4,5-dichloro-1-{4-[4-hydroxy-4-(4-methylphenyl)-1-piperidyl]butyl}-2-methyl-1H-imidazole | 2.6 mmol, 1.02 g | ClC=1N=C(N(C1Cl)CCCCN1CCC(CC1)(C1=CC=C(C=C1)C)O)C | C20H27Cl2N3O
